2171-02-16 06:47:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: chest pain
   24 Hour Events:
 EKG - At [**2171-2-15**] 01:30 PM
 TRANSTHORACIC ECHO - At [**2171-2-15**] 03:40 PM
   .
   Overnight patient had multiple episodes of chest pain. One episode was
   in the context of afib with RVR. Patient imporved with beta blockade,
   nitro.  Repeat episode of chest pain overnight which patient describes
   as something sitting on her chest [**8-19**] pain radiating to jaw,
   shoulder.  Patient recieved nitro x2, morphine, nitro paste with relief
   of symptoms.  Repeat EKGs demonstrated no evidence of ST elevations but
   some ST T wave changes seen on admission.  Patient has declined cardiac
   [**Month/Year (2) 3960**]. Increased BB dose yesterday as well as started long
   acting Imdur.  Enzymes trending up.
   Allergies:
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   overall not fee
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Compazine (Oral) (Prochlorperazine Maleate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2171-2-15**] 04:20 PM
   Enoxaparin (Lovenox) - [**2171-2-15**] 11:34 PM
   Morphine Sulfate - [**2171-2-16**] 02:15 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: as above
   Flowsheet Data as of  [**2171-2-16**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 66 (52 - 111) bpm
   BP: 112/68(77) {93/31(40) - 117/68(86)} mmHg
   RR: 17 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.1 kg (admission): 80.1 kg
                  Total In:
                                                                    463 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                     43 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    760 mL
   Urine:
                                                                    710 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -247 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   216 K/uL
   8.9 g/dL
   94 mg/dL
   1.5 mg/dL
   25 mEq/L
   5.0 mEq/L
   105 mg/dL
   105 mEq/L
   140 mEq/L
   26.3 %
   6.6 K/uL
        [image002.jpg]
                             [**2171-2-15**]  05:32 PM
                             [**2171-2-16**]  04:29 AM
   WBC
   6.6
   Hct
   26.3
   Plt
   216
   Cr
   1.5
   TropT
   0.36
   0.58
   Glucose
   94
   Other labs: CK / CKMB / Troponin-T:439/19/0.58
   Assessment and Plan
   71 yo female with severe coronary artery disease, systolic CHF presents
   with chest discomfort in setting of atrial fibrillation with rapid
   ventricular response in setting of likely mild pancreatitis.
   # Chest pain:  ST segment deviations may have been related to
   old-infarcts and changes have now resolved.  Some contribution related
   to Atrial fibrillation with RVR, given that recurrent episode at 3:30PM
   occurred in setting of heart rate of 115 and resolved with metoprolol
   5mg IV x 2, which reduced heart rate to 70s.  Troponin elevation may be
   related to demand in setting of atrial fibrillation with RVR versus
   NSTEMI.  Likely former, since CPK is stable near 400, which was the
   same level during her last admission.  Nevertheless, will continue
   anticoagulation until more definitive trend for troponins can be
   established. Patient started on lovenox with 70mg SC q24h for
   creatinine clearance < 30
   - cont lovenox as enzymes are trending up
   - ASA, Plavix, metoprolol, lisinopril, atorvastatin
   - Trend biomarkers, telemetry, ECGs
   - patient has refused cardiac [**Last Name (LF) 3960**], [**First Name3 (LF) 116**] need to readdress
   # RHYTHM:  Atrial fibrillation with rapid ventricular response.  [**Month (only) 11**] be
   exacerbated by hypovolemia in setting of gastritis and mild
   pancreatitis. Uptitrated beta blockers yesterday.
   - restart diuretic
   - continue BB at current dose, consider uptitration as tolerated
   - Continue digoxin, level appropriate at 1.0
   # Nausea/vomitting: Slightly elevated lipase and amylase suggests mild
   pancreatitis.  Patient does not appear to be third spacing.  Unclear
   precipitant, medications vs. gallstones.  Alkaline phosphatase is
   negative suggesting against biliary tree source.
   - Hold furosemide 40mg for now, restart once nausea, vomitting resolved
   and patient taking POs
   - Hold off on IV fluids for now, but can consider 250cc boluses if
   urine output decreases.
   # Chronic systolic CHF - Leg edema is at baseline and patient is not
   any more dyspneic than baseline.  Chest x-ray is clear.  Elevated JVP
   may be secondary to tricuspid regurgitation.
   - Continue lisinopril, BB
   - diruesis with goal I /o negative -500 cc per day
   # Chronic renal failure
 Stable
   .
   # Skin breakdown
 patient with apparent coccygeal breakdown as per
   nursing.  Patient refused wound care bed or lying on her side instead.
   As per nursing wound care consult not necessary
   FEN:  Low-sodium heart healthy diet
   ACCESS: PIV's
   PROPHYLAXIS:  Therapeutic enoxaparin for now, switch to heparin SC when
   stopped
   CODE: DNR/DNI
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-2-15**] 01:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Overnight events of chest pain and Afib with rapid ventricular response
   noted.
   Physical Examination
   JVP remains elevated but less distended. Lungs clear,
   Diffuse PMI, parasternal lift, [**3-15**] harsh AS murmur radiating to neck
   with murmur also headr at apex and subxiphoid space that is more
   blowing in charcater and increases with inspiration consistent with TR
   and MR.
   Medical Decision Making
   Concerned with ongoing symptoms of chest pain. There are multiple
   potential supply and demand issues, including rapid Afib, increased
   filling pressures limiting perfusion and increasing wall stress, and
   very likely significnt lesion of one or both remaining vein grafts. She
   continues to refuse cardiac cath but is amenable to other therapies
   short of resuscitation or intubation. Will continue very gentle
   diuresis with goal - 500 cc, rate control with metoprolol, add
   nitrates.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Unstable cardiac symptoms related to ischemia and acute systolic and
   diastolic  heart failure.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2171-2-16**] 11:27 ------

2171-02-17 05:56:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   - Decreased metoprolol to 50mg PO BID (home dose) in setting of
   borderline BPs
   - Started Imdur for CP ppx
   - I/O -1500mL
   - Increased Lovenox to 80mg daily and continue for now
   - SW and palliative care C/Sed
   - Ongoing CP, worse with RVR from her Afib
   - Got NTG gtt for a short period yesterday for CP, CP resolved but BP
   decreased to 80s.
   -Otherwise tx with morphine prn for CP/
   - Refusing atorvastatin
   Allergies:
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   overall not fee
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Compazine (Oral) (Prochlorperazine Maleate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-2-16**] 12:50 PM
   Enoxaparin (Lovenox) - [**2171-2-16**] 08:00 PM
   Morphine Sulfate - [**2171-2-17**] 12:15 AM
   Other medications:
   Flowsheet Data as of  [**2171-2-17**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 86 (69 - 100) bpm
   BP: 92/49(56) {82/28(41) - 137/104(113)} mmHg
   RR: 13 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.1 kg (admission): 80.1 kg
                  Total In:
                                                                    168 mL
                                                                    100 mL
   PO:
                                                                    160 mL
                                                                    100 mL
   TF:
   IVF:
                                                                      8 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                     90 mL
   Urine:
                                                                  1,680 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,512 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   GENERAL: Elderly, overweight female, pleasant, NAD
   HEENT: MMM, OP Clear
   NECK: Supple with JVP of 18cm.
   CARDIAC: PMI diffuse, + RV Heave. LUSB mid-peaking systolic murmur.
   Holosystolic murmur at Apex.  S1 and normal S2.  No gallops.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, obese, NT, ND. No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits.
   EXTREMITIES: 2+ peripheral oedema, stable.
   SKIN: Stage II Sacral decubitus noted on admission
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   173 K/uL
   8.7 g/dL
   98 mg/dL
   2.1 mg/dL
   23 mEq/L
   5.3 mEq/L
   93 mg/dL
   102 mEq/L
   135 mEq/L
   26.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2171-2-15**]  05:32 PM
                             [**2171-2-16**]  04:29 AM
                             [**2171-2-16**]  03:46 PM
                             [**2171-2-17**]  04:41 AM
   WBC
   6.6
   7.9
   Hct
   26.3
   25.3
   26.0
   Plt
   216
   173
   Cr
   1.5
   2.1
   TropT
   0.36
   0.58
   0.59
   Glucose
   94
   98
   Other labs: PT / PTT / INR:16.2/31.0/1.4, CK / CKMB /
   Troponin-T:390/16/0.59, Mg++:2.5 mg/dL
   Assessment and Plan
   71 yo female with severe coronary artery disease, systolic CHF presents
   with chest discomfort in setting of atrial fibrillation with rapid
   ventricular response.
   # Chest pain:  ST segment deviations may have been related to
   old-infarcts and changes have now resolved.  Some contribution related
   to Atrial fibrillation with RVR, given that recurrent episodes
   associated with CP. Initially treated with Bblockers but SBPs have not
   been high enough to tolerate this. Did well with NTG drip and MS IV,
   limited again by hypotension. Troponin elevation may be related to
   demand in setting of atrial fibrillation with RVR versus NSTEMI.
   Likely former, since CPK is stable near 400, which was the same level
   during her last admission.  Nevertheless, will continue anticoagulation
   until more definitive trend for troponins can be established. Patient
   started on lovenox with 80mg SC q24h for creatinine clearance < 30.
   Essentially this is a patient with end-stage, non-intervenable coronary
   disease, she poorly tolerates anti-anginal treatment due to borderline
   BPs.
   - Rate control is tantamount, will try 25 Q8 hours metoprolol in order
   to optimize.
   - continue lovenox
   - ASA, Plavix, lisinopril, refusing atorvastatin
   - patient has refused cardiac catherization
   - Continue imdur
   - Consider ranolazine, fentanyl patch for improved CP regimen in
   setting of end-stage CAD.
   # RHYTHM:  Atrial fibrillation with rapid ventricular response.
   Uptitrate beta blockers as above.
   - diuresis to reduce preload
 afterload
 wall stress
 demand
   ischemia and CP.  Goal 500-1L negative. Will resume home dose lasix of
   40mg PO daily.
   - Continue digoxin, level appropriate at 1.0
   # Chronic systolic CHF - Leg edema is at baseline and patient is not
   any more dyspneic than baseline.  Chest x-ray is clear.  Elevated JVP
   may be secondary to tricuspid regurgitation.
   - Continue lisinopril, BB
   - diruesis with goal I /o negative -500 cc per day
   .
   # Skin breakdown
 patient with apparent coccygeal breakdown as per
   nursing.  Patient refused wound care bed or lying on her side instead.
   As per nursing wound care consult not necessary
   FEN:  Low-sodium heart healthy diet
   ACCESS: PIV's
   PROPHYLAXIS:  Therapeutic enoxaparin for now, switch to heparin SC when
   stopped
   CODE: DNR/DNI
   DISPO: CCU vs floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-2-15**] 01:23 PM
   22 Gauge - [**2171-2-16**] 05:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Recurrent episodes of chest pain, some of which are atypical for usual
   ischemic pain.
   Physical Examination
   HR 120s.
   JVP >16 with prominent v wave
   AS and TR murmurs
   Medical Decision Making
   Improving. Rate control remains an issue as does borderline hypotension
   Will increase metoprolol to 25 mg tid; Continue oral nitrates together
   with other heart failure regimen as recorded above.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2171-2-17**] 11:24 ------

2171-02-18 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - In the afternoon, pt continued to complain of nausea after Zofran
   dose. Wrote for Reglan, but pt refused. Added on Lipase, Amylase->
   downtrending from admission.
   - Creatinine bumped up, d/c'ed Lisinopril. Had started Lasix 40 PO
   daily-> minimal UOP. In previous OMR notes, diuretics have been
   decreased due to ARF. Gave 250cc bolus x2 overnight for low UOP
   (~15/hr)-> improved to ~40/hr each time.
   - Metoprolol increased to 25 tid, tolerated
   - Pt statin decreased to 20mg PO daily (pt refusing 80mg dose)
   - This am, had episode of same chest pain under left breast, received
   morphine 1mg x 3. EKG unchanged from admission.
   - SW, PPC consults pending
   Allergies:
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   overall not fee
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Compazine (Oral) (Prochlorperazine Maleate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2171-2-18**] 06:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-18**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 92 (73 - 113) bpm
   BP: 102/51(66) {67/31(38) - 159/93(101)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.1 kg (admission): 80.1 kg
             Total In:
                                                                    350 mL
                                                                    250 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    250 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                    105 mL
   Urine:
                                                                    560 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -210 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GENERAL: Elderly, overweight female, pleasant, NAD
   HEENT: MMM, OP Clear
   NECK: Supple with JVP elevated
   CARDIAC: PMI diffuse, + RV Heave. LUSB mid-peaking systolic murmur.
   Holosystolic murmur at Apex.  S1 and normal S2.  No gallops.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, obese, NT, ND. No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits.
   EXTREMITIES: 2+ peripheral edema, stable. warm and well perfused
   SKIN: Stage II Sacral decubitus noted on admission
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   173 K/uL
   8.7 g/dL
   119 mg/dL
   2.5 mg/dL
   25 mEq/L
   5.2 mEq/L
   97 mg/dL
   99 mEq/L
   135 mEq/L
   26.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2171-2-15**]  05:32 PM
                             [**2171-2-16**]  04:29 AM
                             [**2171-2-16**]  03:46 PM
                             [**2171-2-17**]  04:41 AM
                             [**2171-2-17**]  02:17 PM
   WBC
   6.6
   7.9
   Hct
   26.3
   25.3
   26.0
   Plt
   216
   173
   Cr
   1.5
   2.1
   2.5
   TropT
   0.36
   0.58
   0.59
   Glucose
   94
   98
   119
   Other labs: PT / PTT / INR:16.2/31.0/1.4, CK / CKMB /
   Troponin-T:390/16/0.59, Amylase / Lipase:85/76, Mg++:2.5 mg/dL
   Assessment and Plan
   71 yo female with severe coronary artery disease, systolic CHF presents
   with chest discomfort in setting of atrial fibrillation with rapid
   ventricular response.
   # Chest pain:  ST segment deviations may have been related to
   old-infarcts and changes have now resolved.  Some contribution related
   to Atrial fibrillation with RVR, given that recurrent episodes
   associated with CP. Initially treated with Bblockers but SBPs have not
   been high enough to tolerate this. Did well with NTG drip and MS IV,
   limited again by hypotension. Troponin elevation may be related to
   demand in setting of atrial fibrillation with RVR versus NSTEMI.
   Likely former, since CPK is stable near 400, which was the same level
   during her last admission.  Nevertheless, will continue anticoagulation
   until more definitive trend for troponins can be established. Patient
   started on lovenox with 80mg SC q24h for creatinine clearance < 30.
   Essentially this is a patient with end-stage, non-intervenable coronary
   disease, she poorly tolerates anti-anginal treatment due to borderline
   BPs.
   - Rate control is tantamount,  will increase BB to 37.5 TID today.
   - last dose lovenox tonight.
   - ASA, Plavix, statin (lowered dose per pt request). ACEI on hold for
   elevated cr.
   - patient has refused cardiac catherization, prefers more palliative
   approach.
   - Pt does not appear to be getting significant benefit from imdur, will
   d/c to give room on BP to increase BB.
   - Consider fentanyl patch for improved CP regimen in setting of
   end-stage CAD. For now will try long acting oral morphine for improved
   pain control.
   - Trial of ranolazine today, monitor QTc.
   # RHYTHM:  Atrial fibrillation with rapid ventricular response.
   Uptitrate beta blockers as above.
   - diuresis to reduce preload
 afterload
 wall stress
 demand
   ischemia and CP.  Low UOP, inc cr and elevated K overnight. Hold lasix
   for today, use as needed for goal fluid even.
   - Continue digoxin, level appropriate at 1.0
   - pt refusing long term anticoagulation, d/c lovenox tonight.
   # Chronic systolic CHF - Leg edema is at baseline and patient is not
   any more dyspneic than baseline.  Chest x-ray is clear.  Elevated JVP
   may be secondary to tricuspid regurgitation.
   - Continue BB, ACEI on hold for inc cr.
   - goal fluid even.
   # Anemia
 pt with persistent low hct.  Given ongoing angina, will
   offer PRBCs for improved 02 delivery/decreased angina. Give with lasix
   as needed.
   # Skin breakdown
 patient with apparent coccygeal breakdown as per
   nursing.  Patient refused wound care bed or lying on her side instead.
   As per nursing wound care consult not necessary.  OOB today.
   FEN:  Low-sodium heart healthy diet
   ACCESS: PIV's
   PROPHYLAXIS:  Therapeutic enoxaparin for now, switch to heparin SC
   tomorrow.
   CODE: DNR/DNI
   DISPO: CCU vs floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-2-17**] 08:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Continued frequent angina
   Physical Examination
   BP 90s; HR 90-100
   Marked JVP elevation with prominent v wave.
   Medical Decision Making
   Difficulty controlling rate due to hypotension.
   creatinine elevation in setting of diuresis and ACE inhibitor - on hold
   and anemia.
   She continues to refuse cardiac cath.
   Will begin around the clock narcotic analgesics.
   Consider ranolazine.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2171-2-18**] 10:26 ------

2171-02-19 06:14:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: chest pain, NSTEMI
   24 Hour Events:
 PICC LINE - START [**2171-2-18**] 05:33 PM
   .
   - pain and palliative care saw patient recs in OMR but basically
   reccomended morphine oral concentrate which patient didn't like taste
   of
   - given 15 MS contin, if works well will start MS contin 15 mg PO BID
   tomorrow with breakthrough pain
   - started breakthrough PO pain medications with 15 mg morphine IR q 4
   PRN with holding parameters
   - increased bowel regimen as per palliative care
   - patient down in IR getting PICC placed so then will get 1 unit of
   blood
   This am, pt reports that pain and nausea much better controlled on MS
   Contin. Pt willing to take bowel meds and heparin sq. Appetite also
   improved yesterday.
   Allergies:
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   overall not fee
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Compazine (Oral) (Prochlorperazine Maleate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2171-2-18**] 06:41 AM
   Enoxaparin (Lovenox) - [**2171-2-18**] 08:00 PM
   Pantoprazole (Protonix) - [**2171-2-18**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-2-19**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 67 (64 - 95) bpm
   BP: 81/39(50) {60/26(34) - 135/91(103)} mmHg
   RR: 16 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.1 kg (admission): 80.1 kg
             Total In:
                                                                  1,440 mL
                                                                    770 mL
   PO:
                                                                    840 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    250 mL
                                                                    500 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    580 mL
                                                                    140 mL
   Urine:
                                                                    580 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    860 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, awake, alert, pleasant
   Eyes / Conjunctiva: PERRL, EOMI grossly
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), irregularly irregular, 4/6 systolic
   ejection murmur LUSB, [**4-15**] blowing holosystolic murmur at apex
   Lungs: CTAB, no w/r/r
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  no new rashes
   Neurologic: Attentive, AOx3, non-focal
   Extremities: 1+ non-pitting edema to knees bilaterally, warm and well
   perfused
   Labs / Radiology
   161 K/uL
   8.6 g/dL
   91 mg/dL
   2.6 mg/dL
   23 mEq/L
   5.3 mEq/L
   97 mg/dL
   102 mEq/L
   134 mEq/L
   25.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2171-2-15**]  05:32 PM
                             [**2171-2-16**]  04:29 AM
                             [**2171-2-16**]  03:46 PM
                             [**2171-2-17**]  04:41 AM
                             [**2171-2-17**]  02:17 PM
                             [**2171-2-18**]  07:03 AM
                             [**2171-2-18**]  05:35 PM
                             [**2171-2-19**]  04:47 AM
   WBC
   6.6
   7.9
   6.5
   5.9
   Hct
   26.3
   25.3
   26.0
   24.3
   25.1
   Plt
   [**Telephone/Fax (3) 4004**]61
   Cr
   1.5
   2.1
   2.5
   2.5
   2.5
   2.6
   TropT
   0.36
   0.58
   0.59
   0.72
   Glucose
   94
   98
   119
   89
   95
   91
   Other labs: PT / PTT / INR:15.1/30.6/1.3, CK / CKMB /
   Troponin-T:372/15/0.72, ALT / AST:13/29, Alk Phos / T Bili:81/0.9,
   Amylase / Lipase:65/64, Albumin:3.6 g/dL, LDH:151 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   71 yo female with severe coronary artery disease, systolic CHF presents
   with chest discomfort in setting of atrial fibrillation with rapid
   ventricular response.
   # Chest pain:  ST segment deviations may have been related to
   old-infarcts and changes have now resolved.  Some contribution related
   to Atrial fibrillation with RVR, given that recurrent episodes
   associated with CP. Initially treated with Bblockers but SBPs have not
   been high enough to tolerate this. Did well with NTG drip and MS IV,
   limited again by hypotension. Troponin elevation may be related to
   demand in setting of atrial fibrillation with RVR versus NSTEMI.
   Likely former, since CPK is stable near 400, which was the same level
   during her last admission.  Nevertheless, will continue anticoagulation
   until more definitive trend for troponins can be established. Patient
   started on lovenox with 80mg SC q24h for creatinine clearance < 30.
   Essentially this is a patient with end-stage, non-intervenable coronary
   disease, also patient declines cardiac cath, she poorly tolerates
   anti-anginal treatment due to borderline BPs.
   - Rate control is tantamount,  increased BB to 37.5 TID, rate
   well-controlled with this.
   - last dose lovenox [**2-18**].
   - ASA, Plavix, statin (lowered dose per pt request). ACEI on hold for
   elevated cr.
   - patient has refused cardiac catherization, prefers more palliative
   approach.
   - palliative care consulted, appreciate their recs
   - Pt does not appear to be getting significant benefit from imdur, will
   d/c to give room on BP to increase BB.
   - Started on MS contin yesterday with very good effect.
   - held off on ranolazine given that starting long acting morphine.
   # RHYTHM:  Atrial fibrillation with rapid ventricular response.
   Uptitratde beta blockers as above.
   - Cont. BB as above
   - Continue digoxin, level appropriate at 1.0
   - pt refusing long term anticoagulation, completed lovenox x 3days for
   ACS
   # Chronic systolic CHF - Leg edema is at baseline and patient is not
   any more dyspneic than baseline.  Chest x-ray is clear.  Elevated JVP
   may be secondary to tricuspid regurgitation.
   - Continue BB, ACEI on hold for inc cr.
   - goal fluid even.
    # Anemia
 pt with persistent low hct.  Given ongoing angina, was
   transfused yesterday without appropriate bump.
   -Transfuse additional unit pRBCs today
   - Cont. to follow Hct
   # Acute on chronic renal failure:  Cr bumped from 1.5->2.5 yesterday.
   Felt to be [**2-11**] pre-renal etiology, diuresis and CHF.  Cr stable today.
   - Given blood for volume today
   - Holding lasix and ACE
   - Cont. to follow
    # Skin breakdown
 patient with apparent coccygeal breakdown as per
   nursing.  Patient refused wound care bed or lying on her side instead.
   As per nursing wound care consult not necessary.  OOB today.
    FEN:  Low-sodium heart healthy diet
   ACCESS: PIV's
   PROPHYLAXIS:  heparin SC, PPI, bowel regimen
   CODE: DNR/DNI, follow up palliative care reccomendations, patient
   considering home with hospice
   DISPO: c/o to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-2-18**] 05:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I would add the following remarks:
   History
   Paiin control improved on ATC MS Contin.
   Physical Examination
   No change
   Medical Decision Making
   Overall status improved. Paliative approach given patient wishes and
   limited options.
   Above discussed extensively with patient.
   Total time spent on patient care: 25 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2171-2-19**] 12:14 ------